US09382228B2
A solution of 2-(1-methyl-1H-imidazol-4-yl)-4-((6-nitropyridin-3-yl)oxy)pyridine (1.61 g, 5.42 mmol) in MeOH (30 mL) was treated with 10% Pd/C (50% w/w water, 0.576 g, 0.542 mmol) and hydrogenated (50 psi) overnight. The solids were removed via filtration through diatomaceous earth, washed with warm MeOH and the filtrate was concentrated to dryness to afford 5-((2-(1-methyl-1H-imidazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine (1.311 g, 91%). 1H NMR (400 MHz, DMSO-d6): δ 8.31 (d, J=5.7 Hz, 1H), 7.81 (d, J=2.9 Hz, 1H), 7.65 (d, J=1.3 Hz, 1H), 7.58 (s, 1H), 7.29 (dd, J=8.9, 3.0 Hz, 1H), 7.19 (d, J=2.6 Hz, 1H), 6.73 (dd, J=5.7, 2.6 Hz, 1H), 6.52 (d, J=8.9 Hz. 1H), 6.03 (s, 2H), 3.67 (s, 3H); MS (ESI) m/z: 268.1 (M+H+).

reactant | 2-(1-methyl-1H-imidazol-4-yl)-4-((6-nitropyridin-3-yl)oxy)pyridine | 5.42 mmol, 1.61 g | CN1C=NC(=C1)C1=NC=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-] | C14H11N5O3
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 0.542 mmol, 0.576 g | [Pd] | Pd
product | 5-((2-(1-methyl-1H-imidazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine | 1.311 g, 91% | CN1C=NC(=C1)C1=NC=CC(=C1)OC=1C=CC(=NC1)N | C14H13N5O
